US08420816B2
PREPARATION B: 1-tert-Butyl 4-methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate
Methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-4-carboxylate (150 mg, 0.735 mmol) was dissolved in DMF (5 mL) and triethylamine (0.31 mL, 2.20 mmol) was added to the solution. Then di-tert-butyl-dicarbonate (240 mg, 1.10 mmol) was added and the mixture was allowed to stir for 3 h at room temperature. The solution was concentrated in vacuo. Purification by silica gel chromatography (30% EtOAc/Hexanes) gave 165 mg of the title compound as a white solid. 1H NMR (400 MHz, CD3OD) δ 10.16 (s, 1H), 8.64 (s, 1H), 8.57 (d, 1H, J=5.0 Hz), 7.63 (d, 1H, J=5.1 Hz), 4.00 (s, 3H), 1.72 (s, 9H). [M+H] found 305.

reactant | Methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-4-carboxylate | 0.735 mmol, 150 mg | C(=O)C1=CNC=2N=CC=C(C21)C(=O)OC | C10H8N2O3
reactant | triethylamine | 2.20 mmol, 0.31 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 1.10 mmol, 240 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-tert-Butyl 4-methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate | 165 mg | C(=O)C1=CN(C=2N=CC=C(C21)C(=O)OC)C(=O)OC(C)(C)C | C15H16N2O5
